US07285557B2
1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidin-3-ol
1-(2-Bromoethoxy)2-methoxy-4-nitrobenzene (0.756 g, 2.7395 mmol) 3-pyrrolidinol (0.477 g, 5.479 mmol) and triethylamine (0.554 g, 5.479 mmol) were combined in DMF (10 mL) and heated to 80° C. The reaction was stirred for 2 h. Cooled to RT and diluted with EtOAc (100 mL) and washed with water (2×100 mL). The organics were dried over MgSO4, filtered and concentrated to afford 0.3967 g (1.407 mmol, 51%) of the desired product as a dark brown oil. 1H NMR (CDCl3) δ 7.90 (d, 1H, J=9.0 Hz), 7.75 (s, 1H), 6.93 (d, 1H, J=9.0 Hz), 4.38 (m, 1H), 4.24 (t, 2H, J=6.2 Hz), 3.95 (s, 3H), 3.2-3.0 (m, 4H), 3.0-2.90 (m, 1H), 2.8-2.70 (m, 1H), 2.60-2.50 (m, 1H), 2.30-2.20 (m, 1H), 1.85-1.75 (m, 1H).

reactant | 1-(2-Bromoethoxy)2-methoxy-4-nitrobenzene | 2.7395 mmol, 0.756 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | triethylamine | 5.479 mmol, 0.554 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidin-3-ol | 1.407 mmol, 0.3967 g, 51% | COC1=C(OCCN2CC(CC2)O)C=CC(=C1)[N+](=O)[O-] | C13H18N2O5
